Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
hematuria in setting of recent transurethral resection of 
prostate
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ male with a history of HTN and BPH, who is
s/p recent TURP on ___ with Dr. ___, who
presents as transfer from ___ for hematuria.
Patient did well after his procedure, he was discharged POD1
without a foley. He was voiding well at home, with intermittent
hematuria which is expected after a TURP. Yesterday, he was
voiding yellow urine during the day, until he started having
hematuria and passing clots later. He presented to ___ after he was unable to void at all. They placed a 16 fr
2 way and sent him to ___.

No fevers or chills. Patient currently very uncomfortable as his
catheter clotted off in transit. Patient was taken ASA ___ and
Celebrex at home. 
 
Past Medical History:
HTN
BPH
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Gen: No acute distress, alert & oriented
HEENT: Extraocular movements intact, face symmetric
CHEST: Warm and well-perfused
BACK: Non-labored breathing, no CVA tenderness bilaterally
ABD: Soft, non-tender, bladder is distended, no guarding or
rebound
EXT: Moves all extremities well
PSY: Appropriately interactive
GU: 16 fr foley in place, no drainage. Removed with large about
of clot at tip. 
 
Pertinent Results:
___ 11:15AM   GLUCOSE-118* UREA N-17 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-20* ANION GAP-21*
___ 11:15AM   estGFR-Using this
___ 11:15AM   CALCIUM-9.5 PHOSPHATE-3.4 MAGNESIUM-2.2
___ 11:15AM   WBC-13.2*# RBC-4.24* HGB-13.9 HCT-40.0 MCV-94 
MCH-32.8* MCHC-34.8 RDW-12.1 RDWSD-41.4
___ 11:15AM   NEUTS-84.9* LYMPHS-8.3* MONOS-5.8 EOS-0.1* 
BASOS-0.5 IM ___ AbsNeut-11.22* AbsLymp-1.10* AbsMono-0.76 
AbsEos-0.01* AbsBaso-0.06
___ 11:15AM   PLT COUNT-214
 
Brief Hospital Course:
Mr. ___ was admitted to the urology service (Dr. ___ on 
___ with hematuria and clot retention in setting of a TURP 
approximately two weeks earlier. On arrival the ___ Fr two-way 
catheter placed at the OSH had clotted off and his bladder was 
markedly distended; it was exchanged at the bedside for a ___ Fr 
three-way catheter, the patient was hand irrigated with 2 L of 
water yielding ~200 mL clot, and CBI was initiated. He had 
already discontinued his ASA nearly a month previously; his home 
celecoxib was held on admission.

On the morning of HD 2 the urine was light pink on brisk CBI, 
and the CBI was clamped. Another ~100 mL clot was hand-irrigated 
out of the bladder, after which the irrigant was nearly clear. A 
void trial was performed and the patient voided three times in 
sequence with low PVRs and nearly clear urine. He was discharged 
home the afternoon of ___ (HD 2) in good condition with 
instructions to follow up with Dr. ___ on an outpatient 
basis and to continue to hold his celecoxib.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Celecoxib 200 mg oral DAILY 
3. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID  
3.  Losartan Potassium 50 mg PO DAILY  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
5.  Senna 17.2 mg PO QHS:PRN Insomnia   
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hematuria in setting of recent transurethral resection of 
prostate

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  

-You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative

- AVOID STRAINING for bowel movements as this may stir up 
bleeding.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity for a minimum of 
four weeks or until you are cleared by your Urologist in 
follow-up

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery.

 
Followup Instructions:
___